US06498182B2
I) Preparation of 6-Hydroxynaphthoquinone (compound 2)
1,6-Dihydroxynaphtalene from Aldrich (3.0 g, 18.7 mmol) was dissolved in a mixture of MeOH (150 mL), KH2PO4-solution (0.167 M, 150 mL) and water (200 mL), and Potassium nitrosodisulfonate (Fremy's salt) (12.0 g, 44.7 mmol) was added. The mixture was stirred at room temperature 2 h. The reaction mixture was put in refrigerator and then filtered. Yield 3.0 g. 1H NMR (400 MHz, CD3OD) δ 6.90 (d, 2 H), 7.12 (dd, 1 H), 7.34 (d, 1 H), 7.92 (d, 1 H).

reactant | 1,6-Dihydroxynaphtalene | OC1=CC=CC2=CC(=CC=C12)O | C10H8O2
reactant | Potassium nitrosodisulfonate | 44.7 mmol, 12.0 g | N([O])(S(=O)(=O)[O-])S(=O)(=O)[O-].[K+].[K+]
solvent | MeOH | 150 mL | CO | CH4O
solvent | KH2PO4 | 0.167 M, 150 mL | OP(=O)(O)[O-].[K+]
solvent | water | 200 mL | O | H2O
product | 6-Hydroxynaphthoquinone | OC=1C=C2C(C=CC(C2=CC1)=O)=O | C10H6O3
